US04659722
150 ml of benzene was added to 5.0 g of N-(1-hydroxy-2,2,2-trichloroethyl)nicotinamide. 2.6 g of thionyl chloride was added dropwise to the mixture under stirring and the obtained mixture was heated under stirring at 60° to 80° C. for about 5 h to complete the production of N-(1,2,2,2-tetrachloroethyl)nicotinamide. The reaction solution was cooled to a temperature of 30° C. or below. 1.4 g of 2-methoxyethylamine was added thereto and then 3.7 g of triethylamine was added dropwise to the liquid mixture kept at 5° C. After stirring at room temperature for 3 h, the mixture was left to stand at room temperature overnight. The reaction solution was poured in an aqueous sodium bicarbonate solution. A benzene layer thus separated was washed with a saturated aqueous common salt solution and water and dried over anhydrous sodium sulfate. After concentration, the residue was recrystallized from a solvent mixture of n-hexane and ethyl acetate to obtain 2.5 g of N-(2-methoxyethylamino-2,2,2-trichloroethyl)nicotinamide. m.p. 75° to 77° C.

reactant | N-(1-hydroxy-2,2,2-trichloroethyl)nicotinamide | 5.0 g | OC(C(Cl)(Cl)Cl)NC(C1=CN=CC=C1)=O | C8H7Cl3N2O2
reactant | thionyl chloride | 2.6 g | S(=O)(Cl)Cl | Cl2OS
reactant | N-(1,2,2,2-tetrachloroethyl)nicotinamide | ClC(C(Cl)(Cl)Cl)NC(C1=CN=CC=C1)=O | C8H6Cl4N2O
reactant | 2-methoxyethylamine | 1.4 g | COCCN | C3H9NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | triethylamine | 3.7 g | C(C)N(CC)CC | C6H15N
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | N-(2-methoxyethylamino-2,2,2-trichloroethyl)nicotinamide | 2.5 g | COCCNC(C(Cl)(Cl)Cl)NC(C1=CN=CC=C1)=O | C11H14Cl3N3O2
